US04845118
1-(p-Nitrophenyloxycarbonyl)-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
The title compound was prepared in analogy to Example 17 from 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole and p-nitrophenyl chloroformate. After working up and chromatography on silica gel using toluene/ethyl acetate (1:1), the appropriate fractions were crystallized from ethyl acetate, and the title compound was obtained. Melting point 165°-168° C.

reactant | 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | CC=1C=CC(=NC1)CSC1=NC=2C(N1)=CSC2 | C12H11N3S2
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 1-(p-Nitrophenyloxycarbonyl)-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=C(C=C2)C | C19H14N4O4S2
